US08026261B2
3-Benzyloxy-2-methyl-1H-pyridin-4-one (1 g, 4.64 mmol) was mixed with potassium carbonate (0.2 g, 1.45 mmol) and CF3CH(OCH3)OH (4.34 g, 33.36 mmol) in sealed parallel synthesizer reactor and heated at 120° C. metal block temperature for 2 days. The mixture was cooled, and an additional amount of potassium carbonate (2 g, 14.5 mmol) and CF3CH(OCH3)OH (2 g, 15.30 mmol) was added. The mixture was again heated in a sealed tube at 120° C. for 60 hours. The mixture was cooled to room temperature and then evaporated to dryness. The residual material was purified by column chromatography (5% MeOH:dichloromethane) to give 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (0.55 g, 37.8% yield).

reactant | 3-Benzyloxy-2-methyl-1H-pyridin-4-one | 4.64 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(NC=CC1=O)C | C13H13NO2
reactant | potassium carbonate | 1.45 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | CF3CH(OCH3)OH | 33.36 mmol, 4.34 g | C(F)(F)(F)C(OC)O | C3H5F3O2
reactant | potassium carbonate | 14.5 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | CF3CH(OCH3)OH | 15.30 mmol, 2 g | C(F)(F)(F)C(OC)O | C3H5F3O2
product | 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 0.55 g, 37.8% yield | C(C1=CC=CC=C1)OC1=C(NC=C(C1=O)C(C(F)(F)F)O)C | C15H14F3NO3
